US07612089B2
A. Preparation of 4-(4-methyl-2-piperazinon-1-yl)phenylamine
A mixture of 4-methyl-2-piperazinone (200 mg, 1.75 mmol), 4-iodoaniline (384 mg, 1.75 mmol), K3PO4 (848 mg, 4.00 mmol) and 1,2-trans-diaminocyclohexane (98 uL, 0.80 mmol) in dioxane (6 mL) was degassed with Ar before being charged with CuI (76 mg, 0.40 mmol). The mixture in a sealed tube was heated at 110° C. for 4 h. It was then purified by a silica gel prep-TLC using CH2Cl2/MeOH (95/5) as solvents to give the desired product (25 mg). MS 206.2 (M+H).

reactant | 4-methyl-2-piperazinone | 1.75 mmol, 200 mg | CN1CC(NCC1)=O | C5H10N2O
reactant | 4-iodoaniline | 1.75 mmol, 384 mg | IC1=CC=C(N)C=C1 | C6H6IN
reactant | K3PO4 | 4.00 mmol, 848 mg | [O-]P(=O)([O-])[O-].[K+].[K+].[K+]
reactant | 1,2-trans-diaminocyclohexane | 0.80 mmol, 98 uL | N[C@H]1[C@@H](CCCC1)N | C6H14N2
solvent | dioxane | 6 mL | O1CCOCC1 | C4H8O2
catalyst | CuI | 0.40 mmol, 76 mg | [Cu]I
product | 4-(4-methyl-2-piperazinon-1-yl)phenylamine | 25 mg | CN1CC(N(CC1)C1=CC=C(C=C1)N)=O | C11H15N3O
